US08980897B2
3.6: Methyl (S)-3-(4-benzyloxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoate
1.1 ml (7.8 mmol) of triethylamine and then 730 mg (2.6 mmol) of 4-benzyloxybenzenesulfonyl chloride in 8 ml of dichloromethane are added to a solution of 800 mg (2.4 mmol) of methyl (S)-3-amino-2-(4-methanesulfonylpiperazin-1-yl)propanoate dihydrochloride in 20 ml of dichloromethane and the reaction medium is stirred at ambient temperature for 3 h. After the addition of water, the product is extracted with dichloromethane. The organic phase is washed with water, dried over magnesium sulfate, filtered and concentrated.

reactant | triethylamine | 7.8 mmol, 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | 4-benzyloxybenzenesulfonyl chloride | 2.6 mmol, 730 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
reactant | methyl (S)-3-amino-2-(4-methanesulfonylpiperazin-1-yl)propanoate dihydrochloride | 2.4 mmol, 800 mg | Cl.Cl.NC[C@@H](C(=O)OC)N1CCN(CC1)S(=O)(=O)C
reactant | water | O | H2O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl (S)-3-(4-benzyloxybenzenesulfonylamino)-2-(4-methanesulfonylpiperazin-1-yl)propanoate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)NC[C@@H](C(=O)OC)N1CCN(CC1)S(=O)(=O)C | C22H29N3O7S2
